US06579883B1
A solution of 1.70 g (7.66 mmol) of 8-chloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one (WO 99/41240) in 120 ml of THF is mixed at room temperature with 2.50 g (11.5 mmol) of pyrocarbonic acid-di-tert-butyl ester and 1.40 g (11.5 mmol) of 4-(dimethylamino)pyridine. After 22 hours at room temperature, the reaction mixture is concentrated by evaporation, and the residue is purified by column chromatography on silica gel with hexane-ethyl acetate. In this case, 2.35 g of 5-tert-butoxycarbonyl-8-chloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one is isolated:

reactant | 8-chloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 7.66 mmol, 1.70 g | ClC1=CC=2C3C(C(NC2C=C1)=O)CCC3 | C12H12ClNO
reactant | pyrocarbonic acid-di-tert-butyl ester | 11.5 mmol, 2.50 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 120 ml | C1CCOC1 | C4H8O
catalyst | 4-(dimethylamino)pyridine | 11.5 mmol, 1.40 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-tert-butoxycarbonyl-8-chloro-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 2.35 g | C(C)(C)(C)OC(=O)N1C(C2C(C=3C=C(C=CC13)Cl)CCC2)=O | C17H20ClNO3
